US09340538B2
Step A: Ethyl 1,4-dibenzylpiperazine-2-carboxylate
To a solution of N1,N2-dibenzylethane-1,2-diamine (24 g, 100 mmol) in toluene (100 mL) was added TEA (24.2 g, 240 mmol). The mixture was heated to 80° C., and a solution of ethyl 2,3-dibromopropanoate (27.3 g, 105 mmol) in toluene (100 mL) was added dropwise over a period of 0.5 hour at 80° C. Then the mixture was stirred at the temperature for 12 hours and cooled to 25° C. The reaction mixture was washed with saturated NaHCO3 aqueous solution. The organic layer was dried over Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=5/1) to give the title compound as yellow oil (22.7 g, 67%). The compound was characterized by the following spectroscopic data:

reactant | N1,N2-dibenzylethane-1,2-diamine | 100 mmol, 24 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | ethyl 2,3-dibromopropanoate | 105 mmol, 27.3 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1,4-dibenzylpiperazine-2-carboxylate | 22.7 g, 67% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
